US06897207B2
3-tert-Butyldimethylsilyloxy-4-methoxybenzonitrile
A solution of iso-vanillin (10.0 g) in dimethylformamide (100 mL) was treated with hydroxylamine hydrochloride (9.14 g) and heated under reflux for 1 hour. The dimethylformamide was removed under reduced pressure and the residue partitioned between ethyl acetate and water. The aqueous fraction was exhaustively extracted with ethyl acetate and the combined organic fractions were dried over sodium sulfate and concentrated in vacuo to afford a brown solid, which was dissolved in tetrahydrofuran (200 mL). After treatment with sodium hydride (2.8 g), the reaction mixture was stirred at room temperature for 1 hour. A solution of tert-butyldimethylsilyl chloride (10.9 g) in tetrahydrofuran (50 mL) was added and the mixture stirred under nitrogen overnight. The mixture was partitioned between water and diethyl ether. The organic extract was dried over sodium sulfate, concentrated in vacuo and subjected to flash column chromatography on silica eluting with a mixture of pentane and dichloromethane (1:3, v/v) to give the title compound (14.7 g) as a colourless oil which was used immediately in the next reaction. 1H NMR [(CD3)2SO]: δ 7.30 (1H, d, J=8.0 Hz); 7.11 (1H, s); 7.01 (1H, s); 3.70 (3H, s); 0.81 (9H, s); 0.01 (6H, s).

reactant | iso-vanillin | 10.0 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | hydroxylamine hydrochloride | 9.14 g | Cl.NO
reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | tert-butyldimethylsilyl chloride | 10.9 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-tert-Butyldimethylsilyloxy-4-methoxybenzonitrile | 14.7 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C#N)C=CC1OC | C14H21NO2Si
